US07579468B2
4-(5-Carbamoyl-1,3-dioxo-1H,3H-benzo[de]isoquinolin-2-yl)-butyric acid (Compound 95)
A mixture of 1,3-dioxo-1H,3H-benzo[de]isochromene-5-carboxamide (0.5 mmol), 4-Aminobutyric acid (1.5 mmol) and 4 mL ethanol was heated to 150° C. for 30 minutes in microwave reactor (Biotage, Initiator). The reaction mixture was cooled to room temperature and the cream color precipitate was collected by filtration and washed with ethanol. The final product was dried in vacuum for 24 hours to give desired compound.

reactant | 1,3-dioxo-1H,3H-benzo[de]isochromene-5-carboxamide | 0.5 mmol | O=C1OC(C2=C3C(C=CC=C13)=CC(=C2)C(=O)N)=O | C13H7NO4
reactant | 4-Aminobutyric acid | 1.5 mmol | NCCCC(=O)O | C4H9NO2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-(5-Carbamoyl-1,3-dioxo-1H,3H-benzo[de]isoquinolin-2-yl)-butyric acid | C(N)(=O)C=1C=C2C3=C(C(N(C(C3=CC=C2)=O)CCCC(=O)O)=O)C1 | C17H14N2O5
